US05969138
(3) Preparation of 1-(2-(2-propynyloxy)ethyl)piperazine dihydrochloride
To a solution of 10.70 g of 1-tert-butoxycarbonyl-4-(2-(2-propynyl)ethyl)piperazine in 1,4-dioxane was added 4N hydrochloric acid/1,4-dioxane, and the mixture was stirred at 60° C. After completion of the reaction, the mixture was concentrated and diethyl ether was added. The solid was collected by filtration and dried to give 11.83 g of the title compound.

reactant | 1-tert-butoxycarbonyl-4-(2-(2-propynyl)ethyl)piperazine | 10.70 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCC#C | C14H24N2O2
reactant | hydrochloric acid 1,4-dioxane | 4N | Cl.O1CCOCC1
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1-(2-(2-propynyloxy)ethyl)piperazine dihydrochloride | 11.83 g | Cl.Cl.C(C#C)OCCN1CCNCC1 | InChI=1S/C9H16N2O.2ClH/c1-2-8-12-9-7-11-5-3-10-4-6-11;;/h1,10H,3-9H2;2*1H
